US03931204
45 g (0.22 moles) of 2,4-dichloro-thieno[3,4-d]pyrimidine are suspended in 1800 ml of absolute ethyl alcohol. To the cooled mixture 28.5 g (0.48 moles) of isopropylamine are added drop by drop whilst agitating vigorously and maintaining the temperature at between 0° and 5°C. A clear solution is obtained which is agitated for a further hour at ambient temperature. The solution is concentrated, making sure that the temperature of the bath does not exceed 30°C. The syrupy residue is poured into iced water whilst agitating well. A yellow solid is formed which is drained off, washed with water and dried. 49 g of 2-chloro-4-isopropylamino-thieno[3,4-d]pyrimidine are obtained with a yield reaching 98% of theory. M.P. : 189°-191°C.

reactant | 2,4-dichloro-thieno[3,4-d]pyrimidine | 0.22 moles, 45 g | ClC=1N=C(C=2C(N1)=CSC2)Cl | C6H2Cl2N2S
reactant | isopropylamine | 0.48 moles, 28.5 g | C(C)(C)N | C3H9N
solvent | ethyl alcohol | 1800 ml | C(C)O | C2H6O
product | 2-chloro-4-isopropylamino-thieno[3,4-d]pyrimidine | 49 g | ClC=1N=C(C=2C(N1)=CSC2)NC(C)C | C9H10ClN3S
